US05015758
Preparation of 2-(1-adamantyl)1-hydroxynaphthalene
A three-necked 100 ml flask is charged with 2.7 g of 1-acetoxyadamantane and 5 ml of cyclohexane in a nitrogen atmosphere. After complete dissolution, there are introduced 1.4 g of concentrated sulfuric acid. In a single portion there is added a suspension of 2 g of 1-naphthol in 15 ml of cyclohexane and one agitates for 45 minutes. 20 ml of ethanol are added and the mixture is filtered. One washes the residue with ethanol and with water and dries on the filter. After recrystallization with cyclohexane, one obtained 0.8 g of the desired product melting at 209.2°-209.6° C.

reactant | 1-acetoxyadamantane | 2.7 g | C(C)(=O)OC12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | sulfuric acid | 1.4 g | S(O)(O)(=O)=O | H2O4S
reactant | 1-naphthol | 2 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | cyclohexane | 15 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 5 ml | C1CCCCC1 | C6H12
product | 2-(1-adamantyl)1-hydroxynaphthalene | 0.8 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C3=CC=CC=C3C=C2)O | C20H22O
